US08067408B2
1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-fluoro-3-biphenylyl]methyl}carbamate
Pd(OAc)2 (88.9 mg, 0.39 mmol), PPh3 (415.0 mg, 1.6 mmol), K2CO3 (2.7 g, 19.8 mmol) and 1,1-dimethylethyl [(3-bromo-2-fluorophenyl)methyl]carbamate (4.0 g, 13.2 mmol) were suspended in 1,4-dioxane (50 mL). After the mixture was heated to 80° C. for 15 min, [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid (4.2 g, 15.8 mmol) was added. Then the reaction mixture was stirred over night at 100° C. After cooled to room temperature, the solvent was removed under reduced pressure. The residue was dissolved in CH2Cl2 (80 mL), then was washed with water (30 mL), brine (30 mL), and dried over Na2SO4. After the solvent was removed, the crude product was purified on Al2O3 column chromatography, eluting with PE/EA (20:1). 1.98 g of the product, 1,1-dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-fluoro-3-biphenylyl]methyl}carbamate, was obtained (yield: 34%). 1H NMR (400 MHz, CDCl3): δ 0.12 (s, 6 H), 0.95 (s, 9 H), 4.42-4.43 (m, 2 H), 4.80 (s, 2 H), 4.96 (s, 1 H), 7.17-7.48 (m, 7 H); 13C NMR (400 MHz, CDCl3): δ −5.3, 18.4, 25.9, 28.3, 38.9, 64.8, 124.2, 125.4, 126.7, 127.6, 128.3, 128.7, 129.7, 129.2, 129.7, 135.4, 141.6, 155.8; HPLC: retention time: 4.630 min; purity: 99.4% (HPLC).

reactant | PPh3 | 1.6 mmol, 415.0 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | K2CO3 | 19.8 mmol, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,1-dimethylethyl [(3-bromo-2-fluorophenyl)methyl]carbamate | 13.2 mmol, 4.0 g | BrC=1C(=C(C=CC1)CNC(OC(C)(C)C)=O)F | C12H15BrFNO2
reactant | [3-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)phenyl]boronic acid | 15.8 mmol, 4.2 g | CC(C)(C)[Si](OCC=1C=C(C=CC1)B(O)O)(C)C | C13H23BO3Si
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(OAc)2 | 0.39 mmol, 88.9 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 1,1-Dimethylethyl {[3′-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-2-fluoro-3-biphenylyl]methyl}carbamate | 1.98 g, yield: 34% | CC(C)(C)[Si](OCC=1C=C(C=CC1)C1=C(C(=CC=C1)CNC(OC(C)(C)C)=O)F)(C)C | C25H36FNO3Si
